US06008212
Potassium 4-(2-acetoxy-ethyl)-naphthalene-1-sulfonate (102.3 g, 308 mmol) was added in portions over 15 minutes to a room temperature solution of dimethylformamide (2.4 mL, 31 mmol) in thionyl chloride (112 mL, 1.54 mol). The reaction mixture was gradually brought to 80° C. (oil bath temperature) over 30 minutes and heated at 80° C. for 90 minutes, then cooled to room temperature and stirred at room temperature for 60 minutes. The reaction mixture was partitioned between ice water (500 mL) and ethyl acetate (500 mL). The organic layer was washed with water (200 mL) and brine (200 mL), dried over magnesium sulfate, filtered, and evaporated under vacuum to a cream colored solid. The crude product was triturated with pet ether to afford 4-(2-acetoxy-ethyl)-naphthalene-1-sulfonyl chloride as a pale tan solid (77.47 g).

reactant | Potassium 4-(2-acetoxy-ethyl)-naphthalene-1-sulfonate | 308 mmol, 102.3 g | C(C)(=O)OCCC1=CC=C(C2=CC=CC=C12)S(=O)(=O)[O-].[K+]
reactant | dimethylformamide | 31 mmol, 2.4 mL | CN(C=O)C | C3H7NO
reactant | thionyl chloride | 1.54 mol, 112 mL | S(=O)(Cl)Cl | Cl2OS
product | 4-(2-acetoxy-ethyl)-naphthalene-1-sulfonyl chloride | 77.47 g | C(C)(=O)OCCC1=CC=C(C2=CC=CC=C12)S(=O)(=O)Cl | C14H13ClO4S
